US07754188B2
Step C 4-(4-Chlorophenyl)-3-(3-bromophenyl)-2-butanol
To a solution of 4-(4-chlorophenyl)-3-(3-bromophenyl)-2-butanone (1.55 kg, 4.6 mol) in tetrahydrofuran (8.4 L) at −60° C. was added L-selectride (1.0 M in tetrahydrofuran, 5.3 L, 5.3 mol), and the reaction mixture was allowed to slowly warm up to room temperature overnight. The mixture was cooled back to 0° C., and was quenched by slow addition of acetone, aqueous sodium hydroxide (2.5 N, 8.5 L, 21 mol) and 30% hydrogen peroxide (2.1 L, 21 mol). After stirig at room temperature for 13 h, the reaction mixture was diluted with toluene (30 L). The organic layer was separated, washed with water (2×12 L), and concentrated to give the title compound as an oil. 1H NMR (500 MHz, CD3OD): δ 7.40 (s, 1H), 7.30 (d, 1H), 7.28-7.10 (m, 4H), 7.04 (d, 2H), 3.98 (m, 1H), 3.12 (dd, 1H), 2.90 (dd, 1H), 2.80 (m, 1H), 1.08 (d, 3H).

reactant | 4-(4-chlorophenyl)-3-(3-bromophenyl)-2-butanone | 4.6 mol, 1.55 kg | ClC1=CC=C(C=C1)CC(C(C)=O)C1=CC(=CC=C1)Br | C16H14BrClO
reactant | L-selectride | 5.3 mol, 1.0 M, 5.3 L | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | sodium hydroxide | 21 mol, 2.5 N, 8.5 L | [OH-].[Na+]
reactant | hydrogen peroxide | 21 mol, 2.1 L | OO | H2O2
solvent | tetrahydrofuran | 8.4 L | O1CCCC1 | C4H8O
solvent | toluene | 30 L | C1(=CC=CC=C1)C | C7H8
solvent | acetone | CC(=O)C | C3H6O
product | 4-(4-Chlorophenyl)-3-(3-bromophenyl)-2-butanol | ClC1=CC=C(C=C1)CC(C(C)O)C1=CC(=CC=C1)Br | C16H16BrClO
